### PR TITLE
[Merged by Bors] - feat(SheafCohomology): add API for Sheaf Cohomology

### PR DESCRIPTION
**Pull request by Brian-Nugent**
Defines `H.equiv₀`, the additive equivalence between `H F 0` and `F.obj.obj (op T)` when the category has a terminal object `T`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Category/Grp/ForgetCorepresentable.lean [hunk 1]
```diff
@@ -79,3 +80,13 @@ instance AddGrpCat.forget_isCorepresentable :
...
+
+theorem uliftZMultiplesHom.add (G : Type u) [AddCommGroup G] (x y : G) :
+    (uliftZMultiplesHom G) (x + y) = ((uliftZMultiplesHom G) x) + ((uliftZMultiplesHom G) y) := by
+  ext
+  simp_all only [uliftZMultiplesHom_apply_apply, smul_add, AddMonoidHom.add_apply]
+
+/-- The additive equivalence `(ℤ ⟶ G) ≃+ G` -/
+def AddCommGrpCat.uliftZMultiplesAddEquiv (G : AddCommGrpCat) : (of (ULift ℤ) ⟶ G) ≃+ ↑G :=
+  AddEquiv.trans (@AddCommGrpCat.homAddEquiv (AddCommGrpCat.of (ULift ℤ)) G)
+    (AddEquiv.mk' (uliftZMultiplesHom G) (uliftZMultiplesHom.add G)).symm
```
Comment (adamtopaz) [inline Mathlib/Algebra/Category/Grp/ForgetCorepresentable.lean]: Are these really needed? The first one seems to just be `AddMonoidHom.map_add`, and the second one is essentially `uliftZMultiplesHom` in reverse. Can you say why you decided to add these?

File: Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean [hunk 2]
```diff
@@ -85,6 +88,69 @@ noncomputable abbrev cohomologyPresheaf (F : Sheaf J AddCommGrpCat.{v}) (n : ℕ
 
 end
 
+section
+
+variable [HasSheafify J AddCommGrpCat.{w}] [HasExt.{w'} (Sheaf J AddCommGrpCat.{w})]
+
+theorem H.eq_zero_of_injective (F : Sheaf J AddCommGrpCat.{w}) (n : ℕ) (x : H F (n + 1))
+    [Injective F] : x = 0 :=
+    Ext.eq_zero_of_injective x
```
Comment (adamtopaz) [inline Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean]:
```suggestion
  Ext.eq_zero_of_injective x
```

File: Mathlib/Algebra/Category/Grp/ForgetCorepresentable.lean (hunk 1 above)
Comment (Brian-Nugent) [reply Mathlib/Algebra/Category/Grp/ForgetCorepresentable.lean]: `uliftZMultiplesHom` is just an equivalence, not an `AddEquiv`, so the first theorem is to turn it into an AddEquiv.

Comment (Brian-Nugent) [reply Mathlib/Algebra/Category/Grp/ForgetCorepresentable.lean]: I suppose a universe polymorphic version of `zmultiplesAddHom` is really what I need

Comment (adamtopaz) [reply Mathlib/Algebra/Category/Grp/ForgetCorepresentable.lean]: Ah, right. thanks.

File: Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean [hunk 3]
```diff
@@ -85,6 +88,69 @@ noncomputable abbrev cohomologyPresheaf (F : Sheaf J AddCommGrpCat.{v}) (n : ℕ
...
+noncomputable def H.equiv₀ : H F 0 ≃+ ((sheafSections J AddCommGrpCat).obj (op T)).obj F :=
+    AddEquiv.trans Ext.addEquiv₀ (
+      AddEquiv.trans ((constantSheafAdj J AddCommGrpCat hT).homAddEquiv _ F)
+        (uliftZMultiplesAddEquiv _))
+
+variable {F G : Sheaf J AddCommGrpCat.{w}} (f : F ⟶ G)
+
+/-- Given a morphism of sheaves `f : F ⟶ G`, `H.map f n` is the induced additive map on cohomology
+    groups `H F n →+ H G n` -/
+noncomputable def H.map (n : ℕ) : H F n →+ H G n :=
```
Comment (adamtopaz) [inline Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean:114]: I think it would be better to prove that H is an additive functor. Do we not have this instance?

Comment (Brian-Nugent) [reply Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean:114]: There is `CategoryTheory.Abelian.extFunctor`, which could be used to define H as a functor into AddCommGrpCat. H is defined as a Type though.

Comment (Brian-Nugent) [reply Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean:114]: I'm not totally sure where the design choices for defining H (and Ext) come from but it seems like defining them as functors would cause universe issues (something I'm not super very familiar with).

Comment (Brian-Nugent) [reply Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean:114]: For example, H.Equiv0 could not be upgraded to a natural isomorphism (at least without some universe assumptions) since the two functors go to different universes

File: Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean [hunk 4]
```diff
@@ -85,6 +88,68 @@ noncomputable abbrev cohomologyPresheaf (F : Sheaf J AddCommGrpCat.{v}) (n : ℕ
...
+/-- The long exact sequence on cohomology obtained from a short exact sequence of sheaves:
+If `S` is a short exact sequence of abelian sheaves, then this is the sequence
+`H S.X₁ n₀ → H S.X₂ n₀ → H S.X₃ n₀ → H S.X₁ n₁ → H S.X₂ n₁ → H S.X₃ n₁` when `n₀ + 1 = n₁` -/
+noncomputable def H.longSequence (h : n₀ + 1 = n₁ := by lia) : ComposableArrows AddCommGrpCat 5 :=
+  Ext.covariantSequence ((constantSheaf J AddCommGrpCat.{w}).obj (AddCommGrpCat.of.{w} (ULift ℤ)))
+    hS n₀ n₁ h
+
+theorem H.longSequence.exact (h : n₀ + 1 = n₁ := by lia) : (H.longSequence hS n₀ n₁ h).Exact :=
+  Ext.covariantSequence_exact ((constantSheaf J AddCommGrpCat).obj (AddCommGrpCat.of (ULift ℤ)))
+    hS n₀ n₁ h
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean]: I think we don't need this extra layer of definitions, and prefer to work with `Ext.covariantSequence` directly.

File: Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean [hunk 5]
```diff
@@ -85,6 +88,68 @@ noncomputable abbrev cohomologyPresheaf (F : Sheaf J AddCommGrpCat.{v}) (n : ℕ
...
+
+instance : (Functor.const Cᵒᵖ : AddCommGrpCat ⥤ Cᵒᵖ ⥤ AddCommGrpCat).Additive where
+
+instance : (constantSheaf J AddCommGrpCat).Additive :=
+  inferInstanceAs (Functor.const _ ⋙ presheafToSheaf _ _).Additive
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean]: These are useful, but should only be added in the correct generality (the first one for a general abelian category, the second for a general abelian category with sheafification)

Comment (Brian-Nugent) [reply Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean]: I changed them and moved them to `Mathlib.CategoryTheory.Sites.Abelian`

File: Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean (hunk 4 above)
Comment (Brian-Nugent) [reply Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean]: That makes sense, I'll delete them

Comment (Brian-Nugent) [reply Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean]: I've been working off of this a bit and its pretty cumbersome to write `((constantSheaf J AddCommGrpCat.{w}).obj (AddCommGrpCat.of.{w} (ULift ℤ)))` every time you want to use the sequence. Would it be reasonable to just change `H.longSequence` to an abbrev?

File: Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean [hunk 6]
```diff
@@ -85,6 +88,62 @@ noncomputable abbrev cohomologyPresheaf (F : Sheaf J AddCommGrpCat.{v}) (n : ℕ
...
+noncomputable def H.equiv₀ : H F 0 ≃+ F.val.obj (op T) :=
+    AddEquiv.trans Ext.addEquiv₀ <|
+      AddEquiv.trans ((constantSheafAdj J AddCommGrpCat hT).homAddEquiv _ F)
+        (uliftZMultiplesAddEquiv _)
+
+variable {F G : Sheaf J AddCommGrpCat.{w}} (f : F ⟶ G)
+
+/-- Given a morphism of sheaves `f : F ⟶ G`, `H.map f n` is the induced additive map on cohomology
+    groups `H F n →+ H G n` -/
+noncomputable def H.map (n : ℕ) : H F n →+ H G n :=
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean:114]: I think it is good to have these definition on types, but could you add `map_id`, `map_comp` lemmas, and recording that this fits into a functor (which may be useful for other purposes).

Comment (Brian-Nugent) [reply Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean:114]: Maybe its better to define the functor version of H using `extFunctor` then prove it is compatible with H?

Comment (Brian-Nugent) [reply Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean:114]: I gave it a go, let me know what you think. If you like this definition, I can turn `H.equiv₀` into a natural isomorphism in the case where the universes allow. (when w=w' I think)

Comment (joelriou) [reply Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean:114]: No, this is not the right way to do this. The suggestion was more:
```lean
lemma H.map_apply {n : ℕ} (x : H F n) :
    H.map f n x = x.comp (Ext.mk₀ f) (add_zero n) := rfl

@[simp]
lemma H.map_id_apply {n : ℕ} (x : H F n) : H.map (𝟙 F) n x = x := by
  simp [H.map_apply]

lemma H.map_comp_apply {n : ℕ} {G' : Sheaf J AddCommGrpCat.{w}} (g : G ⟶ G') (x : H F n) :
    H.map (f ≫ g) n x = H.map g n (H.map f n x) := by
  simp [H.map_apply]

attribute [local simp] H.map_comp_apply in
variable (J) in
@[simps]
noncomputable def functorH (n : ℕ) : Sheaf J AddCommGrpCat.{w} ⥤ AddCommGrpCat.{w'} where
  obj F := .of (H F n)
  map f := AddCommGrpCat.ofHom (H.map f n)

instance (n : ℕ) : (functorH J n).Additive where
  map_add {_ _ f g} := by ext; simp [H.map_apply, Ext.mk₀_add]
```

Comment (Brian-Nugent) [reply Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean:114]: Ok, would you mind explaining what makes this better? I believe you but I'm not sure I can tell the difference.

Comment (Brian-Nugent) [reply Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean:114]: I've added your code and turned `H.equiv₀` into a natural isomorphism.

Comment (joelriou) [reply Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean:114]: I would suggest keeping out the natural isomorphism for now, as we should favour `equiv₀` whenever it is possible.

File: Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean [hunk 7]
```diff
@@ -85,6 +88,104 @@ noncomputable abbrev cohomologyPresheaf (F : Sheaf J AddCommGrpCat.{v}) (n : ℕ
...
+  ((Ext.mk₀ f).postcomp ((constantSheaf J AddCommGrpCat).obj (of (ULift ℤ))) (add_zero n))
+
+lemma H.addEquiv₀_comp (x : H F 0) : Ext.addEquiv₀ (H.map f 0 x) = Ext.addEquiv₀ x ≫ f := by
+  delta Ext.addEquiv₀ H.map
+  apply (Ext.mk₀_bijective _ G).injective
+  simp only [AddEquiv.coe_mk, Ext.mk₀_homEquiv₀_apply, Ext.mk₀_homEquiv₀_apply, ← Ext.mk₀_comp_mk₀]
+  rfl
+
+/-- `H.equiv₀` is natural -/
+theorem H.equiv₀_comp (x : H F 0) :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean]:
```suggestion
theorem H.equiv₀_naturality (x : H F 0) :
```

File: Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean [hunk 8]
```diff
@@ -85,6 +88,104 @@ noncomputable abbrev cohomologyPresheaf (F : Sheaf J AddCommGrpCat.{v}) (n : ℕ
...
+    f.val.app (op T) (H.equiv₀ F hT x) = H.equiv₀ G hT (H.map f 0 x) := by
+  simp only [equiv₀, AddEquiv.trans_apply]
+  erw[addEquiv₀_comp f x]
+  rfl
+
+theorem H.equiv₀_symm_comp (x : F.val.obj (op T)) :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean]:
```suggestion
theorem H.equiv₀_symm_naturality (x : F.val.obj (op T)) :
```

File: Mathlib/Algebra/Category/Grp/ForgetCorepresentable.lean [hunk 9]
```diff
@@ -79,3 +80,13 @@ instance AddGrpCat.forget_isCorepresentable :
 instance AddCommGrpCat.forget_isCorepresentable :
     (forget AddCommGrpCat.{u}).IsCorepresentable :=
   Functor.IsCorepresentable.mk' AddCommGrpCat.coyonedaObjIsoForget
+
+theorem uliftZMultiplesHom.add (G : Type u) [AddCommGroup G] (x y : G) :
```
Comment (adamtopaz) [inline Mathlib/Algebra/Category/Grp/ForgetCorepresentable.lean]: The usual names for such lemmas should be `map_add`, not `add`.

File: Mathlib/Algebra/Category/Grp/ForgetCorepresentable.lean [hunk 10]
```diff
@@ -79,3 +80,13 @@ instance AddGrpCat.forget_isCorepresentable :
...
+    (uliftZMultiplesHom G) (x + y) = ((uliftZMultiplesHom G) x) + ((uliftZMultiplesHom G) y) := by
+  ext
+  simp_all only [uliftZMultiplesHom_apply_apply, smul_add, AddMonoidHom.add_apply]
+
+/-- The additive equivalence `(ℤ ⟶ G) ≃+ G` -/
+def AddCommGrpCat.uliftZMultiplesAddEquiv (G : AddCommGrpCat) : (of (ULift ℤ) ⟶ G) ≃+ ↑G :=
```
Comment (adamtopaz) [inline Mathlib/Algebra/Category/Grp/ForgetCorepresentable.lean]: This definition needs a few API lemmas. I don't know whether `@[simps!]` adds useful lemmas in this case (you can check with `@[simps!?]`).

File: Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean [hunk 11]
```diff
@@ -115,6 +116,85 @@ noncomputable abbrev H' (F : Sheaf J AddCommGrpCat.{v}) (n : ℕ) (X : C) :
...
+variable [HasSheafify J AddCommGrpCat.{w}] [HasExt.{w'} (Sheaf J AddCommGrpCat.{w})]
+
+instance (F : Sheaf J AddCommGrpCat.{w}) {n : ℕ} [Injective F] : Subsingleton (H F (n + 1)) :=
+  subsingleton_of_forall_eq 0 fun x ↦ (Ext.eq_zero_of_injective x)
+
+variable {S : ShortComplex (Sheaf J AddCommGrpCat.{w})} (hS : S.ShortExact) (n₀ n₁ : ℕ)
+    (h : n₀ + 1 = n₁)
+
+/-- The long exact sequence on sheaf cohomology. -/
+noncomputable abbrev H.longSequence (h : n₀ + 1 = n₁ := by lia) :
```
Comment (adamtopaz) [inline Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean]: I'm not sure this should be an `abbrev`. Could you say why you made it so?

**Review by adamtopaz — COMMENTED** [review]
Sorry to keep you waiting. This is getting close now!

File: Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean (hunk 11 above)
Comment (Brian-Nugent) [reply Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean]: I initially had it as a `def` then someone suggested removing it entirely and just working with `Ext.covariantSequence` directly, but that would cause us to have to write `((constantSheaf J AddCommGrpCat.{w}).obj (AddCommGrpCat.of.{w} (ULift ℤ)))` every time so I figured making it an `abbrev` was a good compromise.

Comment (Brian-Nugent) [reply Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean]: I think the way I do it in #36218 is better anyway so I can just delete it here.

File: Mathlib/Algebra/Category/Grp/ForgetCorepresentable.lean (hunk 10 above)
Comment (Brian-Nugent) [reply Mathlib/Algebra/Category/Grp/ForgetCorepresentable.lean]: It looks like that added two and they look pretty useful to me. Thank you for this tip, I didn't know I could do this!

File: Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean [hunk 12]
```diff
@@ -115,6 +116,73 @@ noncomputable abbrev H' (F : Sheaf J AddCommGrpCat.{v}) (n : ℕ) (X : C) :
...
+
+lemma H.addEquiv₀_comp (x : H F 0) : Ext.addEquiv₀ (H.map f 0 x) = Ext.addEquiv₀ x ≫ f := by
+  delta Ext.addEquiv₀ H.map
+  apply (Ext.mk₀_bijective _ G).injective
+  simp only [AddEquiv.coe_mk, Ext.mk₀_homEquiv₀_apply, Ext.mk₀_homEquiv₀_apply, ← Ext.mk₀_comp_mk₀]
+  rfl
+
+/-- `H.equiv₀` is natural -/
+theorem H.equiv₀_naturality (x : H F 0) :
+    f.hom.app (op T) (H.equiv₀ F hT x) = H.equiv₀ G hT (H.map f 0 x) := by
```
Comment (Brian-Nugent) [inline Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean:126]: Should I tag this with `@[simp]`? I'm still getting used to when this is useful.

File: Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean [hunk 13]
```diff
@@ -108,6 +109,73 @@ abbrev H' (F : Sheaf J AddCommGrpCat.{v}) (n : ℕ) (X : C) :
...
+        (uliftZMultiplesAddEquiv _)
+
+variable {F G : Sheaf J AddCommGrpCat.{w}} (f : F ⟶ G)
+
+/-- Given a morphism of sheaves `f : F ⟶ G`, `H.map f n` is the induced additive map on cohomology
+    groups `H F n →+ H G n` -/
+noncomputable def H.map (n : ℕ) : H F n →+ H G n :=
+  ((Ext.mk₀ f).postcomp ((constantSheaf J AddCommGrpCat).obj (of (ULift ℤ))) (add_zero n))
+
+lemma H.addEquiv₀_comp (x : H F 0) : Ext.addEquiv₀ (H.map f 0 x) = Ext.addEquiv₀ x ≫ f := by
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean]:
```suggestion
@[reassoc]
lemma H.addEquiv₀_map (x : H F 0) : Ext.addEquiv₀ (H.map f 0 x) = Ext.addEquiv₀ x ≫ f := by
```

File: Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean (hunk 12 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean:126]: I would say it is unclear in which direction the lemma would be the most useful, so that not putting a simp attribute seems fine to me.

Comment (Brian-Nugent) [reply Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean:126]: Thank you

File: Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean [hunk 14]
```diff
@@ -108,6 +109,74 @@ abbrev H' (F : Sheaf J AddCommGrpCat.{v}) (n : ℕ) (X : C) :
...
+  delta Ext.addEquiv₀ H.map
+  apply (Ext.mk₀_bijective _ G).injective
+  simp only [AddEquiv.coe_mk, Ext.mk₀_homEquiv₀_apply, Ext.mk₀_homEquiv₀_apply, ← Ext.mk₀_comp_mk₀]
+  rfl
+
+/-- `H.equiv₀` is natural -/
+theorem H.equiv₀_naturality (x : H F 0) :
+    f.hom.app (op T) (H.equiv₀ F hT x) = H.equiv₀ G hT (H.map f 0 x) := by
+  simp only [equiv₀, AddEquiv.trans_apply]
+  erw [addEquiv₀_map f x]
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean]: This `erw` can be avoided by making `Sheaf.H _ _` an abbrev for `Ext _ _ _`

Comment (dagurtomas) [reply Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean]: @joelriou what do you think about making `Sheaf.H` an abbrev?

Comment (Brian-Nugent) [reply Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean]: `Sheaf.H` is not usually (in informal math) defined in terms of `Ext` so I think having it as a def is a useful abstraction. Also, it yields pretty unwieldy terms when it gets unfolded.

File: Mathlib/Algebra/Category/Grp/ForgetCorepresentable.lean [hunk 15]
```diff
@@ -79,3 +80,14 @@ instance AddGrpCat.forget_isCorepresentable :
 instance AddCommGrpCat.forget_isCorepresentable :
     (forget AddCommGrpCat.{u}).IsCorepresentable :=
   Functor.IsCorepresentable.mk' AddCommGrpCat.coyonedaObjIsoForget
+
+theorem uliftZMultiplesHom.map_add (G : Type u) [AddCommGroup G] (x y : G) :
+    (uliftZMultiplesHom G) (x + y) = ((uliftZMultiplesHom G) x) + ((uliftZMultiplesHom G) y) := by
```
Comment (robin-carlier) [inline Mathlib/Algebra/Category/Grp/ForgetCorepresentable.lean]:
```suggestion
theorem uliftZMultiplesHom_apply_add (G : Type u) [AddCommGroup G] (x y : G) :
    uliftZMultiplesHom G (x + y) = uliftZMultiplesHom G x + uliftZMultiplesHom G y := by
```

File: Mathlib/Algebra/Category/Grp/ForgetCorepresentable.lean [hunk 16]
```diff
@@ -79,3 +80,14 @@ instance AddGrpCat.forget_isCorepresentable :
...
+  ext
+  simp_all only [uliftZMultiplesHom_apply_apply, smul_add, AddMonoidHom.add_apply]
+
+/-- The additive equivalence `(ℤ ⟶ G) ≃+ G` -/
+@[simps!]
+def AddCommGrpCat.uliftZMultiplesAddEquiv (G : AddCommGrpCat) : (of (ULift ℤ) ⟶ G) ≃+ G :=
+  AddEquiv.trans (@AddCommGrpCat.homAddEquiv (AddCommGrpCat.of (ULift ℤ)) G)
```
Comment (robin-carlier) [inline Mathlib/Algebra/Category/Grp/ForgetCorepresentable.lean]:
```suggestion
  AddEquiv.trans AddCommGrpCat.homAddEquiv
```

File: Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean [hunk 17]
```diff
@@ -108,6 +109,74 @@ abbrev H' (F : Sheaf J AddCommGrpCat.{v}) (n : ℕ) (X : C) :
...
+variable [HasSheafify J AddCommGrpCat.{w}] [HasExt.{w'} (Sheaf J AddCommGrpCat.{w})]
+
+instance (F : Sheaf J AddCommGrpCat.{w}) {n : ℕ} [Injective F] : Subsingleton (H F (n + 1)) :=
+  subsingleton_of_forall_eq 0 fun x ↦ (Ext.eq_zero_of_injective x)
+
+variable (F : Sheaf J AddCommGrpCat.{w}) {T : C} (hT : Limits.IsTerminal T)
+
+open AddCommGrpCat Opposite
+
+/-- The additive equivalence between `H F 0` and the evaluation of `F` at the terminal object -/
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean]:
```suggestion
/-- The additive equivalence between `H F 0` and the evaluation of `F` at a terminal object -/
```

File: Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean [hunk 18]
```diff
@@ -108,6 +109,74 @@ abbrev H' (F : Sheaf J AddCommGrpCat.{v}) (n : ℕ) (X : C) :
...
+noncomputable def H.equiv₀ : H F 0 ≃+ F.obj.obj (op T) :=
+    AddEquiv.trans Ext.addEquiv₀ <|
+      AddEquiv.trans ((constantSheafAdj J AddCommGrpCat hT).homAddEquiv _ F)
+        (uliftZMultiplesAddEquiv _)
+
+variable {F G : Sheaf J AddCommGrpCat.{w}} (f : F ⟶ G)
+
+/-- Given a morphism of sheaves `f : F ⟶ G`, `H.map f n` is the induced additive map on cohomology
+    groups `H F n →+ H G n` -/
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean]:
```suggestion
groups `H F n →+ H G n` -/
```

File: Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean [hunk 19]
```diff
@@ -108,6 +109,74 @@ abbrev H' (F : Sheaf J AddCommGrpCat.{v}) (n : ℕ) (X : C) :
...
+noncomputable def H.map (n : ℕ) : H F n →+ H G n :=
+  ((Ext.mk₀ f).postcomp ((constantSheaf J AddCommGrpCat).obj (of (ULift ℤ))) (add_zero n))
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean]:
```suggestion
  (Ext.mk₀ f).postcomp ((constantSheaf J AddCommGrpCat).obj (of (ULift ℤ))) (add_zero n)
```

File: Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean (hunk 14 above)
Comment (robin-carlier) [reply Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean]: The problem here seems to be that `H.addEquiv₀_map` is a lemma that makes no sense at reducible and instance transparency (`Ext.addEquiv₀` expects a `Ext _ _ 0`, and it is fed something in `H _ 0`. Even though they are defeq, Lean has trouble seeing through the `def` barrier). Some other lemmas below that mix the `H` API with the `Ext` one are probably also suffering from similar transparency issues.

As @dagurtomas says, unless we make `H` an abbrev, this will never really be well-typed, but making `H` an abbrev kind of defeats the purpose here of trying to encapsulate some non-Ext API specifically for `H`, but given that the alternative seems to involve quite a lot of duplication (basically, we need to consistently transfer what we need of `Ext` to `H` via defs, or introduce "non-mathematical" `refl` iso-equiv to make things type well...), I would also agree that `H` as an abbrev makes sense.

@joelriou would you also agree with making `H` an abbrev here?

File: Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean [hunk 20]
```diff
@@ -108,6 +109,74 @@ abbrev H' (F : Sheaf J AddCommGrpCat.{v}) (n : ℕ) (X : C) :
...
+    H.map (f ≫ g) n x = H.map g n (H.map f n x) := by
+  simp [H.map_apply]
+
+attribute [local simp] H.map_comp_apply in
+variable (J) in
+/-- `H` as a functor. -/
+@[simps]
+noncomputable def functorH (n : ℕ) : Sheaf J AddCommGrpCat.{w} ⥤ AddCommGrpCat.{w'} where
+  obj F := .of (H F n)
+  map f := AddCommGrpCat.ofHom (H.map f n)
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean:157]: Given that we already have [CategoryTheory.Sheaf.cohomologyFunctor](https://leanprover-community.github.io/mathlib4_docs/Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.html#CategoryTheory.Sheaf.cohomologyFunctor), and that the following just works
```lean
def functorHIso (n : ℕ) : functorH J n ≅ cohomologyFunctor J n :=
  NatIso.ofComponents (fun _ ↦ .refl _)
```
I think we should drop this and instead make `cohomologyFunctor` an additive functor (and that would probably align with making `H` an abbrev).

Comment (Brian-Nugent) [reply Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean:157]: It looks like `cohomologyFunctor` has been added since this PR was opened. I actually originally defined `functorH` exactly the way `cohomologyFunctor` is defined but was told to change it (I think by @joelriou). FWIW I like @joelriou's method better but if `H` becomes an abbrev then it doesn't make much of a difference.

File: Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean (hunk 14 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean]: Ok, let's make `H` an abbrev!

**Comment by Brian-Nugent** [comment]
I've changed `H` to an abbrev. I checked and `cohomologyFunctor` is only used in this file (to prove one lemma). I think the name sounds a bit to close to `cohomologyPresheafFunctor` (which is different) so I propose we just get rid of `cohomologyFunctor` and use `functorH`. I've done this and reproved the one lemma `cohomologyFunctor` was used for.

File: Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean (hunk 20 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean:157]: Could you add a deprecation for `cohomologyFunctor`?

Comment (Brian-Nugent) [reply Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean:157]: Yes

File: Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean [hunk 21]
```diff
@@ -108,6 +90,81 @@ abbrev H' (F : Sheaf J AddCommGrpCat.{v}) (n : ℕ) (X : C) :
...
+    H.map f n x = x.comp (Ext.mk₀ f) (add_zero n) := rfl
+
+@[simp]
+lemma H.map_id_apply {n : ℕ} (x : H F n) : H.map (𝟙 F) n x = x := by
+  simp [H.map_apply]
+
+lemma H.map_comp_apply {n : ℕ} {G' : Sheaf J AddCommGrpCat.{w}} (g : G ⟶ G') (x : H F n) :
+    H.map (f ≫ g) n x = H.map g n (H.map f n x) := by
+  simp [H.map_apply]
+
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean:145]: Could you add this lemma:
```lean
@[simp]
lemma H.map_add_apply {n : ℕ} (f g : F ⟶ G) (x : H F n) :
    H.map (f + g) n x = H.map f n x + H.map g n x := by
  simp [H, map, Ext.mk₀_add]
```

File: Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean [hunk 22]
```diff
@@ -108,6 +90,81 @@ abbrev H' (F : Sheaf J AddCommGrpCat.{v}) (n : ℕ) (X : C) :
...
+variable (J) in
+/-- `H` as a functor. -/
+@[simps]
+noncomputable def functorH (n : ℕ) : Sheaf J AddCommGrpCat.{w} ⥤ AddCommGrpCat.{w'} where
+  obj F := .of (H F n)
+  map f := AddCommGrpCat.ofHom (H.map f n)
+
+set_option backward.isDefEq.respectTransparency false in
+instance (n : ℕ) : (functorH J n).Additive where
+  map_add {_ _ f g} := by ext; simp [H.map_apply, Ext.mk₀_add];
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean]:
```suggestion
```

File: Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean [hunk 23]
```diff
@@ -108,6 +90,84 @@ abbrev H' (F : Sheaf J AddCommGrpCat.{v}) (n : ℕ) (X : C) :
...
+
+variable (F : Sheaf J AddCommGrpCat.{w}) {T : C} (hT : Limits.IsTerminal T)
+
+open AddCommGrpCat Opposite
+
+/-- The additive equivalence between `H F 0` and the evaluation of `F` at a terminal object -/
+noncomputable def H.equiv₀ : H F 0 ≃+ F.obj.obj (op T) :=
+    AddEquiv.trans Ext.addEquiv₀ <|
+      AddEquiv.trans ((constantSheafAdj J AddCommGrpCat hT).homAddEquiv _ F)
+        (uliftZMultiplesAddEquiv _)
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean]:
```suggestion
  AddEquiv.trans Ext.addEquiv₀ <|
    AddEquiv.trans ((constantSheafAdj J AddCommGrpCat hT).homAddEquiv _ F)
      (uliftZMultiplesAddEquiv _)
```

**Comment by joelriou** [comment]
Thanks!

bors merge
